US07081455B2
(7aS,11aR)-10-ethyl-2-[4-methoxy-2-(trifluoromethyl)phenyl]-5,6,7a,8,9,10,11,11a-octahydro-4H-pyrido[3′,4′:4,5]pyrrolo[3,2,1-ij]quinoline
To a solution of (7aS,11aR)-2-[4-methoxy-2-(trifluoromethyl)phenyl]-5,6,7a,8,9,10,11,11a-octahydro-4H-pyrido[3′,4′:4,5]pyrrolo[3,2,1-ij]quinoline (30 mg, 0.077 mmol) in acetic acid (0.28 mL) was added NaBH (30 mg, 0.80 mmol) in 2 portion in 10 min interval at 55° C. The reaction mixture was stirred for 15 h at 55° C. then quenched by addition of H2O. The aqueous solution was basified with 50% NaOH then extracted with CHCl3. The combined organic solution was dried over MgSO4, concentrated in vacuo. The residue was chromatographed (silica gel; CHCl3: MeOH 99:1–98:2) to give the title compound as a yellow oil (26 mg, 81%). 1H NMR (CDCl3, 300 MHz) δ 1.21–1.35 (m, 3H), 2.05–2.30 (m, 5H), 2.53–2.78 (m, 6H), 2.98–3.07 (br, 1H), 3.08–3.18 (br, 1H), 3.27–3.42 (m, 2H), 3.43–3.57 (br, 1H), 3.88 (s, 3H), 6.83 (s, 1H), 6.86 (s, 1H), 7.04 (dd, J=8.8, 2.9 Hz, 1H), 7.20–7.26 (m, 2H) ppm. MS (CI, NH3): 417.1 (base, M+H).

reactant | (7aS,11aR)-2-[4-methoxy-2-(trifluoromethyl)phenyl]-5,6,7a,8,9,10,11,11a-octahydro-4H-pyrido[3′,4′:4,5]pyrrolo[3,2,1-ij]quinoline | 0.077 mmol, 30 mg | COC1=CC(=C(C=C1)C=1C=C2CCCN3C2=C(C1)[C@H]1[C@@H]3CCNC1)C(F)(F)F | C22H23F3N2O
reactant | acetic acid | 0.28 mL | C(C)(=O)O | C2H4O2
product | (7aS,11aR)-10-ethyl-2-[4-methoxy-2-(trifluoromethyl)phenyl]-5,6,7a,8,9,10,11,11a-octahydro-4H-pyrido[3′,4′:4,5]pyrrolo[3,2,1-ij]quinoline | 26 mg, 81% | C(C)N1C[C@@H]2[C@@H](N3CCCC4=CC(=CC2=C34)C3=C(C=C(C=C3)OC)C(F)(F)F)CC1 | C24H27F3N2O
